US04970213
A solution of 1.15 g of 7-fluoro-1-methyl-8-(3-methyl-1-piperazinyl)-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid in 1.35 cm3 of 98% formic acid and 3.25 cm3 of a 30% aqueous formaldehyde solution is heated at a temperature close to 100° C. for 2 hours. The reaction mixture is concentrated under reduced pressure (20 kPa) at 50° C. and 5 cm3 of water are then added, the solution obtained is brought to pH 7 by adding 0.5 cm3 of 2 N aqueous potassium hydroxide solution and heated at a temperature close to 100° C. for 2 minutes. The product, which crystallizes, is drained at 20° C. and washed with twice 10 cm3 of water. The crude product obtained is recrystallized twice from 10 cm3 dimethylformamide each time. 0.55 g of 8-(3,4-dimethyl-1-piperazinyl)-7-fluoro-1-methyl-4-oxo-1,4-dihydro-benzo [b][1,8]-naphthyridine-3-carboxylic acid is obtained in the form of a yellow solid melting at 306°-308° C.

reactant | 7-fluoro-1-methyl-8-(3-methyl-1-piperazinyl)-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid | 1.15 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C=C1N1CC(NCC1)C | C19H19FN4O3
reactant | formaldehyde | C=O | CH2O
reactant | potassium hydroxide | 2 N, 0.5 cm3 | [OH-].[K+]
solvent | formic acid | 1.35 cm3 | C(=O)O | CH2O2
product | 8-(3,4-dimethyl-1-piperazinyl)-7-fluoro-1-methyl-4-oxo-1,4-dihydro-benzo [b][1,8]-naphthyridine-3-carboxylic acid | 0.55 g | CC1CN(CCN1C)C=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C1)F | C20H21FN4O3
